US09284331B2
Step 1: 1-(1-trityl-1H-imidazol-4-yl)cyclopropanol.
A solution of methyl 1-trityl-1H-imidazole-4-carboxylate (11.0 g, 29.9 mmol) and Ti(OiPr)4 (12.37 mL, 41.8 mmol) in THF (3 mL) was treated dropwise with a 1M solution of EtMgBr (76 mL, 76 mmol) to maintain the temperature below 35° C. The mixture was then stirred at RT for 4 h, and then poured onto H2O. The precipitate was filtered off, and the filtrate was extracted with AcOEt. The combined org. layers were dried over Na2O4, filtered and concentrated in vacuo. Purification by flash chromatography (SiO2, AcOEt/heptane 30:70 to 100:0) gave the title compound (440 mg). UPLC-MS: MS 367.3 (M+H+); UPLC rt 1.01 min.

reactant | methyl 1-trityl-1H-imidazole-4-carboxylate | 29.9 mmol, 11.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(=O)OC | C24H20N2O2
reactant | EtMgBr | 76 mmol, 76 mL | CC[Mg+].[Br-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | Ti(OiPr)4 | 41.8 mmol, 12.37 mL | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 1-(1-trityl-1H-imidazol-4-yl)cyclopropanol | 440 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1(CC1)O | C25H22N2O
